US04251539
15 g of 5-chloromethyl-3-ethyl-isoxazole and 18 g of triethyl phosphite are slowly heated to 150° C. and left at this temperature for 21/2 hours. After the mixture has cooled, it is distilled under reduced pressure. 18.2 g of (3-ethylisoxazol-5-yl)-methanephosphonic acid diethyl ester of boiling point 120°-121° C./0.2 mm Hg are obtained. Yield: 71.2%. 1H-NMR spectrum (CDCl3, with TMS as internal standard): τ=3.85 (d, J=3 Hz, 1H), 4.17 (m, J=Hz, 4H), 6.60 (d, H=20 Hz, 2H), 7.35 (q, J=Hz, 2H), 8.50-8.93 (m, 9H)

reactant | 5-chloromethyl-3-ethyl-isoxazole | 15 g | ClCC1=CC(=NO1)CC | C6H8ClNO
reactant | triethyl phosphite | 18 g | P(OCC)(OCC)OCC | C6H15O3P
product | (3-ethylisoxazol-5-yl)-methanephosphonic acid diethyl ester | 18.2 g, Yield: 71.2% | C(C)OP(OCC)(=O)CC1=CC(=NO1)CC | C10H18NO4P
